US04908368
To a mixture of 3 g of 2,5-dimercapto-1,3,4-thiadiazole, 2.76 g of anhydrous potassium carbonate, and 10 ml of N,N-dimethylformamide was added 1 g of ethyl 4-bromobutyrate and the mixture was stirred overnight at room temperature. After addition of diluted hydrochloric acid to the reaction mixture, the product was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was applied to silica gel chromatography (using 200 ml of silica gel) and eluted with a mixture of toluene and ethyl acetate (9:1) to provide 0.95 g of ethyl 4-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]butyrate.

reactant | 2,5-dimercapto-1,3,4-thiadiazole | 3 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutyrate | 1 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]butyrate | 0.95 g | SC1=NN=C(S1)SCCCC(=O)OCC | C8H12N2O2S3
